US05728886
Preparation of 2-diphenylphosphinomethyl-2'-methyl-1,1'-binaphthyl
4 g (7.3 mmol) of 4,4-diphenyl-4,5-dihydro-3H-dinaphtho-[2,1-c:1',2'-e]phosphepinium bromide are suspended under a protective gas in 70 ml of absolute toluene. 500 mg (14.3 mmol) of lithium aluminum hydride are added to this suspension and the reaction solution is heated to boiling for 5 hours. Unreacted lithium aluminum hydride is subsequently filtered off. The organic phase is extracted with 20 ml of 1N sodium hydroxide solution and subsequently with 20 ml portions of water until the aqueous phase has a pH of from 6 to 7. The organic phase is dried over sodium sulfate and the toluene is drawn off at 12 torr/40° C. The wax-like residue is admixed with 15 ml of oxygen-free isopropanol, boiled and crystallized.

reactant | 4,4-diphenyl-4,5-dihydro-3H-dinaphtho-[2,1-c:1',2'-e]phosphepinium bromide | 7.3 mmol, 4 g | [Br-].C1(=CC=CC=C1)[P+]1(CC2=C(C3=C(C1)C=CC1=CC=CC=C13)C=1C=CC=CC1C=C2)C2=CC=CC=C2
reactant | lithium aluminum hydride | 14.3 mmol, 500 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | toluene | 70 ml | C1(=CC=CC=C1)C | C7H8
product | 2-diphenylphosphinomethyl-2'-methyl-1,1'-binaphthyl | C1(=CC=CC=C1)P(C1=CC=CC=C1)CC1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)C | C34H27P
